US06344175B1
Pyridine-pyrazolone reaction: Quantitative analysis of cyanogen, showing blue. PH 7→ add chlorimine T solution, and add the mixture of a solution of bis-(1-phenyl-3-methyl-5-pyrazolone) in pyridine and a solution of 1-phenyl-3-methyl-5-pyrazolone two to three minutes later, then leave for a while.

reactant | Pyridine pyrazolone | N1=CC=CC=C1.N1=NC(C=C1)=O
reactant | cyanogen | N#CC#N | C2N2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-phenyl-3-methyl-5-pyrazolone | C1(=CC=CC=C1)N1NC(=CC1=O)C | C10H10N2O
